US04680391
A mixture of 300 mg (2.6 mM) 4-methylthioazetidin-2-one, 10 ml acetic anhydride and 10 ml pyridine was stirred at 100° in a sealed tube 24 hours. After concentrating in vacuo, the residue was chromatographed on silica gel in hexane/ethyl acetate to yield 324 mg (78%) of 1-acetyl-4-methylthioazetidine-2-one.

reactant | 4-methylthioazetidin-2-one | 2.6 mM, 300 mg | CSC1CC(N1)=O | C4H7NOS
reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 1-acetyl-4-methylthioazetidine-2-one | 324 mg, 78% | C(C)(=O)N1C(CC1SC)=O | C6H9NO2S
